US08183242B2
Preparation of N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine
To a stirred solution of 2-methylsulfonyl-4-(pyridin-3-yl)pyrimidine (3.0 g) and 2-methyl-3-amino-5-nitropyridine (5.0 g) in DMF (50 mL) at 0-5° C. was added sodium hydride (60%, 2.3 g). The reaction mixture was naturally warmed to room temperature and stirred for 6 hours. Chloroform (50 mL) and water (50 mL) were added to the reaction and the phases were separated, the aqueous phase was extracted with Chloroform (2×100 mL). The organic extracts were combined, dried, filtered, concentrated and the residue was purified by chromatography to provide_N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (5.2 g).

reactant | 2-methylsulfonyl-4-(pyridin-3-yl)pyrimidine | 3.0 g | CS(=O)(=O)C1=NC=CC(=N1)C=1C=NC=CC1 | C10H9N3O2S
reactant | 2-methyl-3-amino-5-nitropyridine | 5.0 g | CC1=NC=C(C=C1N)[N+](=O)[O-] | C6H7N3O2
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | [N+](=O)([O-])C=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H12N6O2
